US08283361B2
(Z)-Ethyl 3-(dimethylamino)-2-(2-fluoro-5-iodobenzoyl)acrylate
2-Fluoro-5-iodobenzoic acid (5.20 g, 19.55 mmol, Aldrich) was suspended in thionyl chloride (1.427 mL, 19.55 mmol, Aldrich) and heated to reflux for 30 min The reaction mixture was cooled to room temperature and concentrated under reduced pressure to a tan solid. The solid was dissolved in toluene (30 mL) and concentrated under reduced pressure again. To a solution of the resulting solid (5.20 g, 19.55 mmol) in toluene (30 mL) was added triethylamine(2.72 mL, 19.55 mmol, Acros) and (Z)-ethyl 3-(dimethylamino)acrylate (3.64 mL, 25.41 mmol, Acros) and the reaction mixture was heated to 90° C. for 1 h. The reaction mixture was diluted with water and extracted three times with ethyl acetate. The combined organic extracts were dried over magnesium sulfate, filtered and concentrated under reduced pressure. Purification by Isco column (0%-100% ethyl acetate/dichloromethane) afforded the desired compound as a yellow solid (6.51 g).

reactant | 2-Fluoro-5-iodobenzoic acid | 19.55 mmol, 5.20 g | FC1=C(C(=O)O)C=C(C=C1)I | C7H4FIO2
reactant | thionyl chloride | 19.55 mmol, 1.427 mL | S(=O)(Cl)Cl | Cl2OS
reactant | triethylamine | 19.55 mmol, 2.72 mL | C(C)N(CC)CC | C6H15N
reactant | (Z)-ethyl 3-(dimethylamino)acrylate | 25.41 mmol, 3.64 mL | CN(\C=C/C(=O)OCC)C | C7H13NO2
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | (Z)-Ethyl 3-(dimethylamino)-2-(2-fluoro-5-iodobenzoyl)acrylate | 6.51 g | CN(\C=C(/C(=O)OCC)\C(C1=C(C=CC(=C1)I)F)=O)C | C14H15FINO3
